US09416138B2
3-(1-Oxo-3,4-dihydroisoquinolin-2(1H)-yl)propanoic acid
Dissolve methyl 3-(1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)propanoate (0.3 g, 1.29 mmol) in THF (12 mL) and MeOH (4 mL). Add lithium hydroxide (0.2 g, 8.23 mmol, in 4 mL H2O). Stir at ambient temperature for 2 hours. Evaporate the solvents from reaction mixture under reduced pressure. Adjust the pH to 5 with 2N HCl. Add EtOAc (60 mL); wash with brine; dry over Na2SO4; filter; and concentrate the filtrate under reduced pressure to provide the title compound (colorless oil, 0.27 g, 95.8%). MS (m/z): 220 (M+1).

reactant | methyl 3-(1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)propanoate | 1.29 mmol, 0.3 g | O=C1N(CCC2=CC=CC=C12)CCC(=O)OC | C13H15NO3
reactant | lithium hydroxide | 8.23 mmol, 4 mL, 0.2 g | [OH-].[Li+]
reactant | HCl | 2N | Cl | ClH
reactant | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | MeOH | 4 mL | CO | CH4O
product | 3-(1-Oxo-3,4-dihydroisoquinolin-2(1H)-yl)propanoic acid | 0.27 g, 95.8% | O=C1N(CCC2=CC=CC=C12)CCC(=O)O | C12H13NO3
